US09334245B2
D. (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 2-morpholin-4-yl-ethyl ester (R4=H; R7=—(CH2)2-morpholine)
(2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (300 mg, 726 μmol, 1.0 eq.), EDCI (770 μL, 6.0 eq.) and HOBt (590 mg, 4.4 mmol, 6.0 eq.) were dissolved in DCM (6 mL). After stirring for 2 minutes, 4-morpholineethanol (879 μL, 10.0 eq.) was added, and the resulting mixture was stirred for 3 hours at room temperature. The mixture was diluted with DCM and washed with saturated sodium bicarbonate. The organic layer was separated, dried and concentrated. The material was purified (reverse phase column: 5-60% MeCN in water with 0.05% TFA over 30 min; compound eluted between 35-45% MeCN in water) and the clean fractions were combined and lyophilized. MeCN (7.2 mL) and 4 M of HCl in dioxane (720 μL) were added to the lyophilized material. The resulting mixture was stirred at room temperature for 0.5 hour and then the solvent was removed to yield the intermediate. 1,2,3-Triazole-4-carboxylic acid (82 mg, 726 μmol, 1.0 eq.), HATU (280 mg, 720 μmol, 1.0 eq.) and DMF (5.8 mL) were combined and the resulting mixture was stirred for 5 minutes. DIPEA (505 μL, 4.0 eq.) and the intermediate were added, and the mixture was stirred for 30 minutes. The reaction was quenched with AcOH and the product was purified by preparative HPLC to yield the title compound (60 mg, 95% purity). MS m/z [M+H]+ calc'd for C28H35N5O5, 522.26. found 522.4.

reactant | (2S,4R)-5-Biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 726 μmol, 300 mg, 1.0 eq. | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | EDCI | 770 μL, 6.0 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 4.4 mmol, 590 mg, 6.0 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-morpholineethanol | 879 μL, 10.0 eq. | N1(CCOCC1)CCO | C6H13NO2
reactant | 1,2,3-Triazole-4-carboxylic acid | 726 μmol, 82 mg, 1.0 eq. | N1N=NC(=C1)C(=O)O | C3H3N3O2
reactant | HATU | 720 μmol, 280 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 505 μL, 4.0 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5.8 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-5-Biphenyl-4-yl-2-hydroxymethyl-2-methyl-4-[(3H-[1,2,3]triazole-4-carbonyl)-amino]-pentanoic acid 2-morpholin-4-yl-ethyl ester | 60 mg, 95% | N1(CCOCC1)CCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C=1NN=NC1)(C)CO)=O | C28H35N5O5
